US08071592B2
(a) Phenylmethyl [((3R,4R)-4-hydroxy-1-{2-[7-(methyloxy)-2-oxo-1,5-naphthyridin-1 (2H)-yl]ethyl}-3-pyrrolidinyl)methyl]carbamate
To a solution of [7-(methoxy)-2-oxo-1,5-naphthyridin-1(2H)-yl]acetaldehyde (as the methyl hemiacetal) (0.500 g, 2.29 mmol) in 1:1 (MeOH/CHCl3) (40 mL) were added phenylmethyl {[(3S,4R)-4-hydroxypyrrolidin-3-yl]methyl}carbamate (0.658 g, 2.29 mmol) and triethylamine (0.351 mL, 2.52 mmol). The resulting solution was stirred at ambient temperature for 1 h. Na(OAc)3BH (1.46 g, 6.87 mmol) was added and the solution stirred at rt for an additional 18 h. The reaction mixture was concentrated onto silica gel and chromatographed on a silica gel column [0-100% CHCl3/(90:10:1) CHCl3/MeOH/NH4OH)] to yield a colorless oil (0.760 g, 73%).

reactant | [7-(methoxy)-2-oxo-1,5-naphthyridin-1(2H)-yl]acetaldehyde | COC1=CN=C2C=CC(N(C2=C1)CC=O)=O | C11H10N2O3
reactant | phenylmethyl {[(3S,4R)-4-hydroxypyrrolidin-3-yl]methyl}carbamate | 2.29 mmol, 0.658 g | O[C@@H]1[C@@H](CNC1)CNC(OCC1=CC=CC=C1)=O | C13H18N2O3
reactant | triethylamine | 2.52 mmol, 0.351 mL | C(C)N(CC)CC | C6H15N
reactant | Na(OAc)3BH | 6.87 mmol, 1.46 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | MeOH CHCl3 | CO.C(Cl)(Cl)Cl
product | Phenylmethyl [((3R,4R)-4-hydroxy-1-{2-[7-(methyloxy)-2-oxo-1,5-naphthyridin-1 (2H)-yl]ethyl}-3-pyrrolidinyl)methyl]carbamate | 0.760 g, 73% | O[C@@H]1[C@@H](CN(C1)CCN1C(C=CC2=NC=C(C=C12)OC)=O)CNC(OCC1=CC=CC=C1)=O | C24H28N4O5
